US08008302B2
Step e) Formation of (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-(4-ethoxy phenyl)pentanoic acid
To a solution of (2R,3S)-2-[3-(4-ethoxyphenyl)propyl]-3-hydroxybutanedioic acid (3.06 g; 10.33 mmol; 1.0 eq.) in acetone (50.0 mL) was added 2,2-dimethoxypropane (1.8 g; 17.6 mmol; 1.7 eq.) and copper(II) chloride (135 mg; 1.03 mmol; 0.1 eq.). The resulting reaction mixture was stirred for 14 h at RT. The reaction mixture was evaporated and the residue taken up in Et2O. Filtration on a pad of celite gave the title product as a greenish oil used in the next step without further purification. 1H NMR (CDCl3, 300 MHz) δ 7.05 (d, J=8.6 Hz, 2H), 6.80 (d, J=8.6 Hz, 2H), 4.48 d (J=5.0 Hz, 1H), 3.98 (q, J=7.0 Hz, 2H), 3.10-2.81 (m, 1H), 2.74-2.41 (m, 3H), 2.20-1.15 (m, 4H), 1.61 (s, 3H), 1.50 (s, 3H), 1.35 (t, J=7.0 Hz, 3H).

reactant | (2R,3S)-2-[3-(4-ethoxyphenyl)propyl]-3-hydroxybutanedioic acid | 10.33 mmol, 3.06 g, 1.0 eq. | C(C)OC1=CC=C(C=C1)CCC[C@@H](C(=O)O)[C@@H](C(=O)O)O | C15H20O6
reactant | 2,2-dimethoxypropane | 17.6 mmol, 1.8 g, 1.7 eq. | COC(C)(C)OC | C5H12O2
solvent | acetone | 50.0 mL | CC(=O)C | C3H6O
catalyst | copper(II) chloride | 1.03 mmol, 135 mg, 0.1 eq. | [Cu](Cl)Cl
product | (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-(4-ethoxy phenyl)pentanoic acid | CC1(OC([C@@H](O1)[C@H](C(=O)O)CCCC1=CC=C(C=C1)OCC)=O)C | C18H24O6
